US08389527B2
A microwave tube was charged with 6-chloro-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (35 mg, 0.075 mmol), 1-methylpiperidin-4-amine (86 mg, 0.750 mmol) and NMP (1 mL). The reaction mixture was irradiated in a microwave (300 W) for 20 minutes at 100° C. The crude reaction mixture was dissolved in a small amount of MeOH and purified by reversed phase HPLC (YMC ODS-A 5 um 30×250 mm, 10-90% aqueous methanol containing 0.1% TFA, 25 mL/min, 30 min gradient, monitored at 220 nm). The product (retention time=30.463 minutes) was isolated and lyophilized to dryness. The crude material was dissolved in CH2Cl2 (2 mL) and treated with TFA (0.5 mL) and stirred at room temperature for 2 hours, then concentrated to dryness. The crude reaction product was dissolved in a small amount of MeOH and purified by reversed phase HPLC (YMC ODS-A 5 um 30×250 mm, 10-90% aqueous methanol containing 0.1% TFA, 25 mL/min, 30 min gradient, monitored at 220 nm). The product (retention time=24.643 minutes) was isolated and lyophilized to dryness to afford 8-(cyclopropylamino)-N-(3-fluoropyridin-4-yl)-6-(1-methylpiperidin-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide (8.5 mg, 14.42%). HPLC Rt=2.681 min (YMC S5 ODS 4.6×50 mm, 10-90% aqueous methanol containing 0.2% H3PO4, 4 min gradient, monitored at 220 nm). [M+H+]=425.0.

reactant | 6-chloro-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.075 mmol, 35 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=C(C=NC=C2)F)N(CC2=CC=C(C=C2)OC)C2CC2 | C23H20ClFN6O2
reactant | 1-methylpiperidin-4-amine | 0.750 mmol, 86 mg | CN1CCC(CC1)N | C6H14N2
reactant | NMP | 1 mL | CN1CCCC1=O | C5H9NO
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 8-(cyclopropylamino)-N-(3-fluoropyridin-4-yl)-6-(1-methylpiperidin-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 8.5 mg, 14.42% | C1(CC1)NC=1C=2N(N=C(C1)NC1CCN(CC1)C)C(=CN2)C(=O)NC2=C(C=NC=C2)F | C21H25FN8O
